US04808589
3-(4-Dimethylaminomethyl-2-pyridylmethylthio)propionitrile (13.60 g) was dissolved in a mixture of dry methanol (70 ml) and dry chloroform (140 ml) and the stirred solution cooled to -5° C. under nitrogen. Dry hydrogen chloride gas was passed through the solution for 3.75 hours, keeping the temperature below 0° C. The solution was allowed to stand in a stoppered flask at ca. 4° C. for 24 hours and was added to a solution of potassium carbonate (45 g) in ice-water (500 ml). The chloroform layer was separated off and the aqueous layer extracted with chloroform (3×150 ml). The combined extracts were dried (K2CO3 and chloroform evaporated at reduced pressure to give methyl 3-(4-dimethylaminomethyl-2-pyridylmethylthio)propionimidate (14.02 g) as an oil.

reactant | 3-(4-Dimethylaminomethyl-2-pyridylmethylthio)propionitrile | 13.60 g | CN(C)CC1=CC(=NC=C1)CSCCC#N | C12H17N3S
reactant | hydrogen chloride | Cl | ClH
reactant | potassium carbonate | 45 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 70 ml | CO | CH4O
solvent | chloroform | 140 ml | C(Cl)(Cl)Cl | CHCl3
product | methyl 3-(4-dimethylaminomethyl-2-pyridylmethylthio)propionimidate | 14.02 g | CN(C)CC1=CC(=NC=C1)CSCCC(OC)=N | C13H21N3OS
